US05344843
A stirred mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (2.71 g) in dimethylformamide (20 mL) under argon was treated with 55% sodium hydride (0.65 g) , stirred for 15 minutes and treated with epichlorohydrin (12 mL). The mixture was heated at 60° C. for four hours and worked up as in Example 20. The material was purified by HPLC (dichloromethane-diethyl ether; 50:1) to provide 2.4 g of 4-(oxiranylmethoxy)alpha-oxobenzeneacetic acid methyl ester, as an oil.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 2.71 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 0.65 g | [H-].[Na+]
reactant | epichlorohydrin | 12 mL | C(Cl)C1CO1 | C3H5ClO
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-(oxiranylmethoxy)alpha-oxobenzeneacetic acid methyl ester | 2.4 g | COC(C(C1=CC=C(C=C1)OCC1OC1)=O)=O | C12H12O5
